US04476129
1-[2-[Bis(4-fluorophenyl)methoxy]ethyl]piperazine and 3-chloro-1-(4-fluorophenyl)-1-propanone were reacted with each other as decribed in Example VI. After evaporation of the solvent, water and chloroform were added. The working up was further as in Example VI, except that the residue of the column fraction was taken up in ethanol. 3-[4-[2-bis(4-fluorophenyl)methoxy]ethyl]-1-piperazinyl)-1-(4-fluorophenyl)-1-propanone dihydrochloride was obtained.

reactant | 1-[2-[Bis(4-fluorophenyl)methoxy]ethyl]piperazine | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | 3-chloro-1-(4-fluorophenyl)-1-propanone | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
product | 1-(4-fluorophenyl)-1-propanone dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(CC)=O | InChI=1S/C9H9FO.2ClH/c1-2-9(11)7-3-5-8(10)6-4-7;;/h3-6H,2H2,1H3;2*1H
